* PV switch gate drive, vin=24V, vctrl=0V
Vpv pv_in 0 DC 24
Vctrl ctrl_in 0 DC 0
V3 ctrl3v3 0 DC 3.3

R40 ctrl3v3 q2g 100k
R41 ctrl_in q2g 10
R43 pv_in q2d 100k
R42 q2d u2gate 10

M2 q2d q2g 0 0 NMOS2
D1 u2gate u2src DZ
Rsrc u2src 0 1Meg

.model NMOS2 NMOS (VTO=1.6 KP=0.5M RD=0.1 RS=0.1)
.model DZ D (IS=1e-15 BV=12 IBV=1e-3 CJO=20p VJ=0.7)

.op
.control
run
print "VIN=" 24
print "VCTRL=" 0
print "V(q2g)=" v(q2g)
print "V(q2d)=" v(q2d)
print "V(u2gate)=" v(u2gate)
print "V(u2src)=" v(u2src)
print "Vgs=" v(u2gate,u2src)
.endc
.end
